US07495007B2
In a manner similar to the method described in example 1b, 2,5-dichloro-benzaldehyde (1.75 g, 10 mmol) was used as the starting material in place of 3-chlorobenzaldehyde to react with Lithium bis(trimethylsilyl)amide (1M solution in THF, 10 mL, 10 mmol), trimethylsilyl chloride (1.1 g, 10 mmol), triethylamine (1.4 g, 13 mmol) and acetyl chloride (1.0 g, 13 mmol) to give 1-(2,5-dichlorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2,5-dichloro-benzaldehyde | 10 mmol, 1.75 g | ClC1=C(C=O)C=C(C=C1)Cl | C7H4Cl2O
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Lithium bis(trimethylsilyl)amide | 10 mmol, 1M, 10 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13 mmol, 1.4 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13 mmol, 1.0 g | C(C)(=O)Cl | C2H3ClO
product | 1-(2,5-dichlorophenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC1=C(C=C(C=C1)Cl)C=NC(=C)O[Si](C)(C)C | C12H15Cl2NOSi
